US05864037
(I) 3-(3-Cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-hypoxanthine
4.15 g (10 mM) of 3-(3-Cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-2-thioxanthine was dissolved in 42 ml of 1N NaOH and treated with three portions of 3 g of Raney-nickel with 0.5 hour intervals. After a further 0.5 hour, the nickel was filtered off and the solution acidified with 8 ml of 5N HCl to pH 3 and then neutralized with sodium bicarbonate solution to pH 7. The solid was collected, washed and dried: 3.62 g (94.5%) of hypoxanthine having a melting point of 243°-4° C.

reactant | 3-(3-Cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-2-thioxanthine | 10 mM, 4.15 g | C1(CCCC1)OC=1C=C(CN2C(NC(C=3NC(=NC23)C(C)C)=O)=S)C=CC1OC | C21H26N4O3S
solvent | NaOH | 1N, 42 ml | [OH-].[Na+]
catalyst | Raney-nickel | 3 g | [Ni] | Ni
product | 3-(3-Cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-hypoxanthine | C1(CCCC1)OC=1C=C(CN2C=NC(C=3NC(=NC23)C(C)C)=O)C=CC1OC | C21H26N4O3
